US09351965B2
N-(3-(2-fluorophenoxy)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide was stirred in neat TFA at room temperature for 10 minutes, and then Et3SiH (5 equiv.) was added. The reaction mixture was stirred at room temperature for 30 minutes, and then concentrated. The product N-[3-(2-fluorophenoxy)cyclohexyl]-3-(2-methyl-4-pyridinyl)-1H-indazole-5-carboxamide was obtained and purified by reverse phase HPLC.

reactant | N-(3-(2-fluorophenoxy)cyclohexyl)-3-(2-methylpyridin-4-yl)-1-trityl-1H-indazole-5-carboxamide | FC1=C(OC2CC(CCC2)NC(=O)C=2C=C3C(=NN(C3=CC2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC(=NC=C2)C)C=CC=C1 | C45H39FN4O2
reactant | Et3SiH | 5 equiv. | [SiH](CC)(CC)CC | C6H16Si
solvent | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[3-(2-fluorophenoxy)cyclohexyl]-3-(2-methyl-4-pyridinyl)-1H-indazole-5-carboxamide | FC1=C(OC2CC(CCC2)NC(=O)C=2C=C3C(=NNC3=CC2)C2=CC(=NC=C2)C)C=CC=C1 | C26H25FN4O2
